US07217724B2
(R)-(Pyridin-3-yl)oxirane
To a solution of (R)-2-chloro-1-pyridin-3-ylethanol (2.0 g, 12.7 mmol) in acetonitrile (100 ml) is added potassium carbonate (7.02 g). The mixture is refluxed for 2.5 hours, and cooled to room temperature. The mixture is filtered, and the filtrate is distilled off under reduced pressure. The resultant is purified by silica gel column chromatography (methanol/chloroform=1/100) to give the title compound (R)-(pyridin-3-yl)oxirane (1.46 g, yield: 94%) as pale yellow oil.

reactant | (R)-2-chloro-1-pyridin-3-ylethanol | 12.7 mmol, 2.0 g | ClC[C@H](O)C=1C=NC=CC1 | C7H8ClNO
reactant | potassium carbonate | 7.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (R)-(pyridin-3-yl)oxirane | 1.46 g, yield: 94% | N1=CC(=CC=C1)[C@H]1OC1 | C7H7NO
